US07935699B2
A solution of 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester (1.48 g, 8.49 mmol) in tetrahydrofuran (5 ml) was added dropwise to a cooled 0° C. suspension of lithium aluminum hydride (0.39 g, 10.19 mmol) in tetrahydrofuran (15 ml). The reaction was allowed to warm to 25° C. and stirred for 17 h. After such time, ethyl acetate (1 ml) and a few crystals of sodium sulphate decahydrate were added with caution and stirred until gas evolution stopped. The resulting residue was filtered through a short celite pad and washed with ethyl acetate and then concentrated in vacuo to afford (3,3-dimethoxy-cyclobutyl)-methanol (1.04 g, 84%) as a light yellow oil: 1H NMR (300 MHz, CDCl3) δ ppm 1.57 (brs, 1H, OH), 1.82-1.97 (m, 2H, CH2), 2.23-2.36 (m, 3H, CH2 and CH), 3.14 (s, 3H, OCH3), 3.16 (s, 3H, OCH3), 3.64-3.68 (m, 2H, OCH2).

reactant | 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester | 8.49 mmol, 1.48 g | COC(=O)C1CC(C1)(OC)OC | C8H14O4
reactant | lithium aluminum hydride | 10.19 mmol, 0.39 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium sulphate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (3,3-dimethoxy-cyclobutyl)-methanol | 1.04 g, 84% | COC1(CC(C1)CO)OC | C7H14O3
